US06235936B1
Synthesis of N-(1-Naphthvl)benzophenone hydrazone
Benzophenone hydrazone (1 equiv., 10 mmol, 2.04 g), 1-bromonaphthalene (1.0 equiv., 10 mmol, 1.39 mL), Pd(OAc)2 (0.01 equiv., 0.1 mmol, 23 mg), BINAP (0.01 equiv., 0.1 mmol, 63 mg), and toluene (10 mL) were added to an oven dried Schlenk flask and stirred at room temperature for 2 minutes, NaOtBu (1.4 equiv., 14 mmol, 1.345 g) and an additional 10 mL of toluene were then added. The flask was capped with a septum and purged briefly with argon (˜1 min.) and heated to 80° C. under argon for 4.5 hours. The reaction mixture was then cooled to room temperature, diluted with Et2O (10 mL), and concentrated under vacuum to give the crude product as a brown solid. Recrystallization of the crude product from hot ethanol (150 mL) gave the desired product as a red solid (1.6939 g, 5.26 mmol, 53% yield). The mother liquor was concentrated until the solution became cloudy, and then heated until the solution became clear, filtered and cooled to −4° C. for 12 hours. The resulting crystals were filtered to give an additional 1.062 g of the title product as an orange/red solid (3.3 mmol, 33% yield), to give a 85% overall yield of the desired product.

reactant | Benzophenone hydrazone | 10 mmol, 2.04 g, 1 equiv. | C(C1=CC=CC=C1)(C1=CC=CC=C1)=NN | C13H12N2
reactant | 1-bromonaphthalene | 10 mmol, 1.39 mL, 1.0 equiv. | BrC1=CC=CC2=CC=CC=C12 | C10H7Br
reactant | NaOtBu | 14 mmol, 1.345 g, 1.4 equiv. | CC(C)(C)[O-].[Na+]
catalyst | Pd(OAc)2 | 0.1 mmol, 23 mg, 0.01 equiv. | CC(=O)[O-].CC(=O)[O-].[Pd+2]
catalyst | BINAP | 0.1 mmol, 63 mg, 0.01 equiv. | C=1C=CC(=CC1)P(C=2C=CC=CC2)C3=CC=C4C=CC=CC4=C3C5=C6C=CC=CC6=CC=C5P(C=7C=CC=CC7)C=8C=CC=CC8 | C44H32P2
solvent | toluene | 10 mL | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 10 mL | C1(=CC=CC=C1)C | C7H8
product | N-(1-Naphthvl)benzophenone hydrazone | 5.26 mmol, 1.6939 g, 53% yield | C1(=CC=CC2=CC=CC=C12)NN=C(C1=CC=CC=C1)C1=CC=CC=C1 | C23H18N2
